* C:\Users\nicof\Desktop\Laboratorios 6 y 7\Repositorio\Magnetometro-optico\ltspice\Fuente de corriente.asc
R1 N001 N004 15k
R2 N007 0 15k
V1 N004 0 1
XU1 N007 N001 V+ V- N005 OP177A
R3 N003 N001 1
R4 N002 N003 1k
C1 N002 N001 1n
C2 0 V+ 0.1µ
V2 V+ 0 12V
C3 0 V- 0.1µ
R5 N006 N005 50
C4 N007 0 1n
Q1 V- N006 N002 0 BD136
R6 N009 N007 1k
R7 N002 V+ 10K
D1 NC_01 NC_02 1N4148
R8 N002 N009 1
L1 N008 N009 1µ
R9 0 N008 1
D3 N008 0 1N4148
V3 0 V- 12V
.model D D
.lib C:\Users\nicof\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\nicof\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 10 0.9 0.1
.lib OP177A.lib
.backanno
.end
